US03959319
Following the procedure of Example 1 but using 0.535 g. of PGF2 α , 0.254 ml. of triethylamine, 0.238 ml. of isobutylchloroformate, and 0.327 g. of β-naphthol, there is obtained a crude residue. This residue is subjected to silica gel chromatography, eluting with ethyl acetate followed by acetonitrile. The residue obtained by concentration of selected fractions, 0.410 g., is crystallized from ethyl acetate diluted with 1.5 volumes of hexane as the title compound, white free-flowing crystals, m.p. 98.8°-100° C. having Rf 0.25 (TLC on silica gel in ethyl acetate).

reactant | PGF2 α | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@@H]([C@@H]1C/C=C\CCCC(=O)O)O)O)O | C20H34O5
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | β-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
